US04193921
To a solution of 1.5 g. of (20S)-1α,3β-diacetoxy-20-methyl-21-tetrahydropyranyloxypregna-5-ene in 25 ml. of absolute ether was added 0.3 g. of lithium aluminum hydride and the suspension was stirred at room temperature for 1 hour. After cooling to 0°, 2 ml. of ethyl acetate was added and the mixture poured onto ice-water. The insoluble part was extracted with ethyl acetate, the organic solution was washed with water and dried over sodium sulfate. By filtration and evaporation under vacuum 1.4 g. of crystalline (20S)-1α,3β-dihydroxy-20-methyl-21-tetrahydropyranyloxypregna-5-ene was obtained. Recrystallization from methanol gave white crystals, m.p. 138°-141°; [α]D =-48.8° (c=0.5, chloroform).

reactant | (20S)-1α,3β-diacetoxy-20-methyl-21-tetrahydropyranyloxypregna-5-ene | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](COC5OCCCC5)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C31H48O6
reactant | ether | CCOCC | C4H10O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (20S)-1α,3β-dihydroxy-20-methyl-21-tetrahydropyranyloxypregna-5-ene | O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](COC5OCCCC5)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H44O4
